Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: EMERGENCY
 
Allergies: 
Sulfa(Sulfonamide Antibiotics) / Penicillins
 
Attending: ___.
 
Chief Complaint:
R hip pain
 
Major Surgical or Invasive Procedure:
Radiation for bone mets
Lung tissue biopsy
 
History of Present Illness:
This patient is a ___ year old female with a PMHx of PE and
stage IV lung cancer with metastasis to the bone, who
presents with severe R hip pain, which began a few months
ago but has worsened over the past 2 weeks. The patient
reports that her stave IV lung CA has metastasized to her
bone, and is now pressing into the nerves of her R hip. She
states that she is in unbearable, worsening, severe pain in
her sacrum and R leg, radiating down to the knee, which
makes it difficult for her to move or walk. She also reports
associated numbness and weakness in her R leg, with tingling
in her B/L toes, which is new over the past month as the
pain has become more severe. No other parasthesias, no bowel
or bladder incontinence, no F/C, no N/V/D, no HA, no CP, no
SOB.
 
The patient reports that she is currently taking 40 mg of
oxycodone every 6 hours, and 300 mg of oxycontin every 8
hours for pain, without significant relief. She spoke with
her oncologist about this pain, who recommended she present
to the ED for admission and IV pain management. She denies
any bladder or bowel incontinence, no F/C, no cough, no CP,
no dyspnea.
 
Past Medical History:
Dislipidemia
h/o colon cancer s/p partial colectomy in ___
adenocarcinoma of lung (stage IV) ___
premalignant tongue lesion s/p partial resection
hysterectomy
alcohol dependence 
depressive disorder
 
Social History:
___
Family History:
first cousin has lung cancer 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
=========================
HR: 87 BP: 160/80 Resp: 18 O(2)Sat: 100 Normal
Constitutional: Comfortable
HEENT: Normocephalic, atraumatic, Extraocular muscles
intact
Oropharynx within normal limits
Chest: Clear to auscultation
Cardiovascular: Regular Rate and Rhythm
Abdominal: Soft, Nontender
Extr/Back: Severely uncomfortable to slight movement in RLE or 
general movement. +2 pulses B/L ___. Normal sensation B/L ___.  
Toes
downgoing. No saddle anesthesia. Normal distal strength
Skin: Warm and dry

DISCHARGE PHYSICAL EXAM:
========================
Vital signs: stable
General: Uncomfortable and anxious appearing at times, pleasant
HEENT: MMM, EOMI   
LUNG: breathing unlabored
EXT: Pt able to stand and complete small shuffling steps with
assistance, has decreased strength in right lower extremity,
requiring assistance to bend and lift off of bed.  
NEURO: AAOx3.  
SKIN: No rashes  
Neuropsychiatric: Oriented, appropriate with full range of 
affect
 
Pertinent Results:
LAB RESULTS: Within normal limits

RELEVANT STUDIES:

- MRI SPINE C/T/L W/O CONTRAST (___):
1. There are T1 and T2 hypointense sclerotic osseous lesions 
throughout the entire cervical, thoracic and lumbar spine. In 
the thoracic spine, at T3 and T12, there are T2 hyperintense 
enhancing lesions.  Clinical correlation with bone scan or PET 
scan may yield additional information if clinically indicated. 
2. Multilevel degenerative changes as described above without 
evidence of 
acute compression of the cord or cauda equina. 
3. L2-3 level, there is a right paracentral disc protrusion, 
with associated high signal of the disc and marrow edema pattern 
of the L2 vertebra which may represent traumatic herniation and 
fracture of the vertebra, although this is difficult to 
ascertain as there is no loss of vertebral body height where 
clear fracture line/defect.  Clinical correlation is 
recommended. CT of the lumbar spine may yield additional 
information if clinically indicated. 

- BRONCHIAL TISSUE BIOPSY (___): 
1. PATHOLOGY: Adenocarcinoma, morphologically similar to that 
seen in the prior pleural biopsy (___), see note.
2. CYTOLOGY: POSITIVE FOR MALIGNANT CELLS. Consistent with 
metastatic adenocarcinoma. Polymorphous lymphocytes present 
consistent with lymph node sampling.
 
Brief Hospital Course:
___ year old female with stage 4 NSCLC with extensive bone mets, 
and history of pulmonary emboli on Lovenox, who presents with 
with worsening right hip pain. Most likely secondary to 
increased diffuse tumor burden. Has had radiation in the past, 
which gave her ___ months of relief. During this 
hospitalization, pain medication regimen was markedly uptitrated 
(see below), and pt underwent a second round of palliative 
radiation to the affected area, with great relief. Was 
discharged home in stable condition on new regimen with pt 
planning to provide for her own home ___.

TRANSITIONAL ISSUES:
====================
- Pain was eventually controlled on a dose of oxycontin at 320mg 
q8h, plus PO dilaudid ___ q3h prn for breakthrough pain, and 
gabapentin 300mg q8h. 
- Pt was seen by rad/onc, who did a PET for mapping and then 
began pt on a course of palliative radiation to R sacrum/ileum 
for her R hip pain
- Pt's insurance required prior authorization for her oxycontin 
dose, and we had difficulty finding a pharmacy that could fill 
this prescription. ___ can deliver 1 week's worth 
before discharge, and pt can return next week for the remainder 
of this month's supply. After this she can go to the ___ 
___ for refills.
- Pt also got an endobronchial biopsy the day before discharge, 
by Interventional Pulmonology while admitted, in order to be 
enrolled in a clinical trial. 
- Has f/u appts w/ outpatient oncologist and w/ the IP team
- Pt was seen regularly by ___ and is now able to ambulate 
independently with a walker, including transitions and 
self-care.
- Pt has in-home nursing care already due to her partner's 
healthcare needs
- Pt has a prescription for a bedside commode as it is difficult 
for her to make transfers with a lower toilet. 

 
Medications on Admission:
1. OxycoDONE (Immediate Release) 40 mg PO Q6H:PRN pain 
2. Docusate Sodium 100 mg PO QHS
3. OxyCODONE SR (OxyconTIN) 120 mg PO Q8H 
4. Dexamethasone 4 mg PO Q12H 
5. Enoxaparin Sodium 60 mg SC Q12H 
6. Lorazepam 0.5 mg PO HS:PRN insomnia/nausea 
7. Omeprazole 20 mg PO BID 
8. Prochlorperazine 10 mg PO Q6H:PRN nausea 
9. Senna 17.2 mg PO HS:PRN constipation 
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. Gabapentin 300 mg PO Q8H 
3. HYDROmorphone (Dilaudid) ___ mg PO Q2H:PRN breakthrough pain 
Take 1, 1.5, or 2 tablets at a time for breakthrough pain. 
4. Polyethylene Glycol 17 g PO DAILY Do not take if ___ are 
having diarrhea or loose stools. 
5. Docusate Sodium 100 mg PO BID
6. OxyCODONE SR (OxyconTIN) 320 mg PO Q8H 
7. Dexamethasone 4 mg PO Q12H 
8. Enoxaparin Sodium 60 mg SC Q12H 
9. Lorazepam 0.5 mg PO HS:PRN insomnia/nausea 
10. Omeprazole 20 mg PO BID 
11. Prochlorperazine 10 mg PO Q6H:PRN nausea 
12. Senna 17.2 mg PO HS:PRN constipation 
 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
Lung adenocarcinoma metastatic to bone
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).
 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure taking care of ___ at ___.

___ came to us because ___ were having severe pain in your right 
hip, not responsive to oral pain medication at home. This pain 
is due to the spread of your lung cancer into your bones, 
including your right hip area. It took several days and many 
medication changes and dosing adjustments, but we were finally 
able to get your pain controlled enough on oral medication to 
allow ___ to move about your home at a reasonable level.

We have arranged for ___ to go home with a week's worth of your 
pain medication, and ___ will need to return to the ___ 
at ___ next week to get the remainder of your month's supply. 
After this, we will arrange for ___ to be able to pick up your 
medications at the ___ in the area near your home.

While ___ were here ___ also got radiation for your bone 
metastases to hopefully help with the pain. ___ also got a lung 
tissue biopsy by the Interventional Pulmonology doctors in the 
operating room. This biopsy was taken in order to allow ___ to 
be enrolled in a clinical trial. ___ are safe to go home now 
after this procedure, but ___ should know that ___ may cough up 
blood-tinged secretions for a day or two, and ___ may have a 
low-grade fever of up to 100.4F due to inflammation caused by 
this procedure. This is okay, and if this occurs ___ can take 
tylenol for symptom relief. 

We also have a prescription for ___ to have a bedside commode at 
home, as have had trouble sitting on a lower level toilet seat. 

We have also scheduled follow-up appointments for ___, as 
detailed below.
 
Followup Instructions:
___